US05861401
A solution of bromine (0.26 ml) in chloroform (40 ml) was added dropwise to a stirred solution of 2-amino-3-methylpyrazine (0.453 g) and pyridine (0.4 ml) in chloroform (100 ml) with shielding from sunlight, over a period of 1 hour. The reaction mixture was stirred for a further 30 minutes and then water (25 ml) was added. The organic layer was separated, dried (MgSO4) and evaporated to afford a brown oil. The oil was purified by chromatography on silica gel, eluting with dichloromethane, to give 2-amino-5-bromo-3-methylpyrazine as a white solid (0.312 g, 28%), m.p. 51°-52° C.; mass spectrum (+ve CI): 188 (M+H)+.

reactant | bromine | 0.26 ml | BrBr | Br2
reactant | 2-amino-3-methylpyrazine | 0.453 g | NC1=NC=CN=C1C | C5H7N3
reactant | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 25 ml | O | H2O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-bromo-3-methylpyrazine | 0.312 g, 28% | NC1=NC=C(N=C1C)Br | C5H6BrN3
